US05210218
A three-neck flask was charged with a mixture of 20 g (0.14 mol) of 2-phenyl-2-butenonitrile, 200 g of chloroform and 2 g of triethylbenzylammonium chloride, and the mixture was stirred. To the mixture were dropwise added 100 g of a 50% sodium hydroxide solution under cooling with ice. The reaction mixture was further stirred at room temperature for 15 hours, then poured into ice water, and the organic phase was separated. The aqueous phase was extracted with hexane. The organic phase fractions were combined together, and dried over anhydrous sodium sulfate. The inorganic substances were filtered off, and the organic solvent was distilled off under a reduced pressure. The resultant oily residue was distilled under a pressure of 0.1 mmHg (116°-120° C.) to obtain 10.4 g of 2,2-dichloro-3-methyl-1-phenylcyclopropanecarbonitrile. Yield: 33%.

reactant | 2-phenyl-2-butenonitrile | 0.14 mol, 20 g | C1(=CC=CC=C1)C(C#N)=CC | C10H9N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chloroform | 200 g | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 2 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
product | 2,2-dichloro-3-methyl-1-phenylcyclopropanecarbonitrile | 10.4 g, Yield: 33% | ClC1(C(C1C)(C#N)C1=CC=CC=C1)Cl | C11H9Cl2N
